US07534797B2
7-Cyclobutyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
Gaseous ammonia (from a lecture bottle) was condensed into a suspension of 4-chloro-7-cyclobutyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (70.7 mg, 0.8115 mmol) in dioxane (2 mL) and iPrOH (2 mL) in a sealable glass tube, cooled by dry ice/acetone, until the volume increased by ≈2 mL, then the tube was sealed and heated to 100° C. overnight. The solvents were evaporated, water was added, the mixture was extracted with CH2Cl2 (3×30 mL), and the combined CH2Cl2 extracts were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound as a white solid. 1H NMR (CDCl3, 400 MHz): δ=1.83-1.95 (m, 2H), 2.34-2.47 (m, 2H), 2.48-2.58 (m, 2H), 5.22 (quint, J=8.7 Hz, 1H), 5.63 (brs, 2H), 7.26 (s, 1H), 8.26 (s, 1H). 13C NMR (CDCl3, 100.6 MHz, DEPT135): δ=14.92 (−), 31.05 (2C, −), 48.50 (+), 48.82 (Cquart), 104.11 (Cquart), 126.39 (+), 149.82 (Cquart), 152.00 (+), 156.94 (Cquart). MS (ES+): m/z 315.0 (100) [MH+]. HPLC: tR=2.4 min (OpenLynx, polar—5 min).

reactant | ammonia | N | H3N
reactant | 4-chloro-7-cyclobutyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 0.8115 mmol, 70.7 mg | ClC=1C2=C(N=CN1)N(C=C2I)C2CCC2 | C10H9ClIN3
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 7-Cyclobutyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C1(CCC1)N1C=C(C2=C1N=CN=C2N)I | C10H11IN4
